US07897792B2
Dimethylcarbamic acid 4-carbamoylmethyl-6-chloro-3-(3-(methanesulfonyl)aminobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester
Et3N (13 •L, 0.093 mmol) and methanesulfonyl chloride (3.6 •L, 0.050 mmol) were added to a solution of dimethylcarbamic acid 3-(3-aminobenzyl)-4-carbamoylmethyl-6-chloro-2-oxo-2H-1-benzopyran-7-yl ester (20 mg, 0.047 mmol) in methylene chloride (1.0 mL), and the mixture was stirred at room temperature for 2 hours. The solvent was distilled away by concentration under reduced pressure, and the resultant residue was purified by column chromatography to yield the title compound (5.0 mg, 22%) as a white solid.

reactant | Et3N | 0.093 mmol | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.050 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethylcarbamic acid 3-(3-aminobenzyl)-4-carbamoylmethyl-6-chloro-2-oxo-2H-1-benzopyran-7-yl ester | 0.047 mmol, 20 mg | NC=1C=C(CC=2C(OC3=C(C2CC(N)=O)C=C(C(=C3)OC(N(C)C)=O)Cl)=O)C=CC1 | C21H20ClN3O5
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | Dimethylcarbamic acid 4-carbamoylmethyl-6-chloro-3-(3-(methanesulfonyl)aminobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 5.0 mg, 22% | C(N)(=O)CC1=C(C(OC2=C1C=C(C(=C2)OC(N(C)C)=O)Cl)=O)CC2=CC(=CC=C2)NS(=O)(=O)C | C22H22ClN3O7S
